US04588722
A mixture of 5 parts of N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine and 150 parts of a hydrobromic acid solution 48% in water was stirred and refluxed overnight. The reaction mixture was evaporated and the solid residue was crystallized from ethanol 80%, yielding 4 parts of 4-[2-[4-[[1-(4-thiazolylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]phenol dihydrobromide; mp. 291.0° C. (compound 59).

reactant | N-[1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]-1-(4-thiazolylmethyl)-1H-benzimidazol-2-amine | COC1=CC=C(C=C1)CCN1CCC(CC1)NC1=NC2=C(N1CC=1N=CSC1)C=CC=C2 | C25H29N5OS
reactant | hydrobromic acid | Br | BrH
solvent | water | O | H2O
product | 4-[2-[4-[[1-(4-thiazolylmethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinyl]ethyl]phenol dihydrobromide | Br.Br.S1C=NC(=C1)CN1C(=NC2=C1C=CC=C2)NC2CCN(CC2)CCC2=CC=C(C=C2)O | InChI=1S/C24H27N5OS.2BrH/c30-21-7-5-18(6-8-21)9-12-28-13-10-19(11-14-28)26-24-27-22-3-1-2-4-23(22)29(24)15-20-16-31-17-25-20;;/h1-8,16-17,19,30H,9-15H2,(H,26,27);2*1H
